US07687510B2
2-Bromo-5-(1,3-dioxolan-2-yl)pyridine
6-Bromo-3-pyridinecarbaldehyde (500 mg, 2.7 mmol) and 1,2-ethanediol (200 mg, 3.2 mmol) are dissolved in toluene (50 ml) together with Amberlyst 15 (100 mg) in a round bottom flask equipped with a reflux condenser and a Dean-Stark trap. The solution is stirred at reflux overnight, then cooled to room temperature, filtered and concentrated in vacuo. The crude product is chromatographed over silica gel with cyclohexane and ethyl acetate as the eluent to afford the title compound as a colorless oil.

reactant | 6-Bromo-3-pyridinecarbaldehyde | 2.7 mmol, 500 mg | BrC1=CC=C(C=N1)C=O | C6H4BrNO
reactant | 1,2-ethanediol | 3.2 mmol, 200 mg | C(CO)O | C2H6O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Bromo-5-(1,3-dioxolan-2-yl)pyridine | BrC1=NC=C(C=C1)C1OCCO1 | C8H8BrNO2
